US05563163
A mixture of isonicotinic acid (0.98 g, 0.008 mol), 2-bromomethylsaccharin (2.11 g, 0.008 mol), triethylamine (0.81 g, 0.008 mol) and xylene (25 ml) were refluxed for 1 hour. The solvent was removed in vacuo and the residue was partitioned between water and methylene chloride. The organic layer was separated and the solvent removed in vacuo. The solid residue was recrystallized from CH3CN to afford 0.9 g (37%) of 2-saccharinylmethyl pyridine-4-carboxylate as a yellow solid, m.p. 145°-146° C.

reactant | isonicotinic acid | 0.008 mol, 0.98 g | C(C1=CC=NC=C1)(=O)O | C6H5NO2
reactant | 2-bromomethylsaccharin | 0.008 mol, 2.11 g | BrCN1S(=O)(=O)C2=CC=CC=C2C1=O | C8H6BrNO3S
reactant | triethylamine | 0.008 mol, 0.81 g | C(C)N(CC)CC | C6H15N
solvent | xylene | 25 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-saccharinylmethyl pyridine-4-carboxylate | 0.9 g, 37% | N1=CC=C(C=C1)C(=O)OCN1S(=O)(=O)C2=CC=CC=C2C1=O | C14H10N2O5S
